US09334290B2
A solution of 3-(3-bromo-2-methylphenyl)-7-methoxyquinazoline-2,4(1H,3H)-dione (440 mg, 1.22 mmol) in THF (30 mL) was treated with iodomethane (303 mg, 2.13 mmol) and Cs2CO3 (869 mg, 2.67 mmol) at room temperature. The mixture was stirred at room temperature overnight, then was filtered and concentrated. The residue was dissolved in DCM and washed sequentially with saturated aqueous NaHCO3 and water, dried and concentrated to give 3-(3-bromo-2-methylphenyl)-7-methoxy-1-methylquinazoline-2,4(1H,3H)-dione (502 mg), used without further purification. Mass spectrum m/z 375, 377 (M+H)+. 1H NMR (400 MHz, chloroform-d) δ 8.21 (d, J=8.8 Hz, 1H), 7.67 (dd, J=7.9, 1.3 Hz, 1H), 7.24-7.18 (m, 1H), 7.17-7.13 (m, 1H), 6.88 (dd, J=8.8, 2.2 Hz, 1H), 6.72 (d, J=2.2 Hz, 1H), 3.99 (s, 3H), 3.64 (s, 3H), 2.24 (s, 3H).

reactant | 3-(3-bromo-2-methylphenyl)-7-methoxyquinazoline-2,4(1H,3H)-dione | 1.22 mmol, 440 mg | BrC=1C(=C(C=CC1)N1C(NC2=CC(=CC=C2C1=O)OC)=O)C | C16H13BrN2O3
reactant | iodomethane | 2.13 mmol, 303 mg | IC | CH3I
reactant | Cs2CO3 | 2.67 mmol, 869 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(3-bromo-2-methylphenyl)-7-methoxy-1-methylquinazoline-2,4(1H,3H)-dione | 502 mg | BrC=1C(=C(C=CC1)N1C(N(C2=CC(=CC=C2C1=O)OC)C)=O)C | C17H15BrN2O3
